US04558046
7-chloromethyl-5-oxo-5H-thiazolo[3,2-a]pyrimidine-2-carboxylic acid, methyl ester (12.8 g), prepared according to Example 7, was dissolved in dimethylformamide and reacted with anhydrous potassium acetate (10 g) under stirring at room temperature for 20 hours. After dilution with ice water the precipitate was filtered and washed with water to give 7-acetoxymethyl-5-oxo-5H-thiazolo[3,2-a]pyrimidine-2-carboxylic acid, methyl ester (12.7 g) which was hydrolysed by treatment with 37% HCl (20 ml) in dioxane (100 ml) under stirring at room temperature for 2 hours. The reaction mixture was diluted with acetone and the precipitate was filtered and then treated with aqueous Na2HPO4 : filtration and washings with water until neutral gave 7-hydroxymethyl-5-oxo-5H-thiazolo[3,2-a]pyrimidine-2-carboxylic acid, methyl ester (7:1 g) which was reacted with dicyclohexylcarbodiimide (14.01 g) in benzene (90 ml) and dimethylsulphoxide (40 ml) in the presence of trifluoroacetic acid (1 ml) and pyridine (1.71 ml) under stirring at room temperature for 20 hours. After treatment with oxalic acid bihydrate (3.1 g) at room temperature, the precipitate of dicyclohexylurea was filtered off and the organic solution was concentrated in vacuo to dryness: the residue was purified over a SiO2 column using chloroform:methanol=95:5 as eluent. The 7-formyl-5-oxo-5H-thiazolo[3,2-a]pyrimidine-2-carboxylic acid, methyl ester so obtained (2.7 g) was reacted with triphenylphosphonium-benzyl chloride (2.94 g) under treatment with 50% NaH (0.43 g) in dimethylsulfoxide (10 ml) and dichloroethane (6 ml) at room temperature for 18 hours. After evaporation of the solvent in vacuo, the residue was diluted with ice water and the precipitate was filtered and washed with water: crystallization from isopropyl alcohol gave 1.9 g of 7-trans-(2-phenyl-ethenyl)-5-oxo-5H-thiazolo[3,2-a]pyrimidine-2-carboxylic acid, methyl ester, m.p. 183°-185° C., which was hydrolyzed by treatment with 0.5% KOH solution in 95% ethanol (80 ml) at reflux temperature for 1 hour. The precipitate was filtered and dissolved in dimethylformamide-formic acid: the solution was then diluted with ice water. The precipitate was filtered and washed with water until neutral: crystallization from CHCl3 -isopropyl alcohol gave 1.3 g of 7-trans-(2-phenyl-ethenyl)-5-oxo-5H-thiazolo[3,2-a]pyrimidine-2-carboxylic acid, m.p. 246°-248° C.,

reactant | 7-chloromethyl-5-oxo-5H-thiazolo[3,2-a]pyrimidine-2-carboxylic acid, methyl ester | 12.8 g | ClCC=1N=C2N(C(C1)=O)C=C(S2)C(=O)OC | C9H7ClN2O3S
reactant | potassium acetate | 10 g | C(C)(=O)[O-].[K+]
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 7-acetoxymethyl-5-oxo-5H-thiazolo[3,2-a]pyrimidine-2-carboxylic acid, methyl ester | 12.7 g | C(C)(=O)OCC=1N=C2N(C(C1)=O)C=C(S2)C(=O)OC | C11H10N2O5S
